US07122683B2
tert-butyl (3S)-3-(cycloheptylamino)pyrrolidine-1-carboxylate
tert-butyl (3S)-3-(cycloheptylamino)pyrrolidine-1-carboxylate was prepared by a method similar to that described in preparation 14 using tert-butyl (3S)-3-aminopyrrolidine-1-carboxylate and cycloheptanone to yield the desired product, 4.54 g (100%).

reactant | tert-butyl (3S)-3-aminopyrrolidine-1-carboxylate | N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | cycloheptanone | C1(CCCCCC1)=O | C7H12O
product | tert-butyl (3S)-3-(cycloheptylamino)pyrrolidine-1-carboxylate | C1(CCCCCC1)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C16H30N2O2
